US06346532B1
To a solution of 13.4 g of (R)-2-[N-benzyl-N-[2-(4-nitrophenyl)ethyl]amino]-1-phenylethanol in 150 ml of methanol were added 8.6 g of iron powder and 40 ml of a 2N aqueous hydrochloric acid solution. The reaction mixture was heated to reflux for two hours, a 1N aqueous solution of sodium hydroxide was added thereto, and the insoluble matters thus produced were filtered off using Celite. The filtrate was concentrated in vacuo to remove the methanol. The resulting aqueous phase was extracted with chloroform, the organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated in vacuo. The resulting residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=1/1) to give 11.45 g of (R)-2-[N-[2-(4-amino-phenyl)ethyl]-N-benzylamino]-1-phenylethanol.

reactant | (R)-2-[N-benzyl-N-[2-(4-nitrophenyl)ethyl]amino]-1-phenylethanol | 13.4 g | C(C1=CC=CC=C1)N(CCC1=CC=C(C=C1)[N+](=O)[O-])C[C@H](O)C1=CC=CC=C1 | C23H24N2O3
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
catalyst | iron | 8.6 g | [Fe] | Fe
product | (R)-2-[N-[2-(4-amino-phenyl)ethyl]-N-benzylamino]-1-phenylethanol | 11.45 g | NC1=CC=C(C=C1)CCN(CC1=CC=CC=C1)C[C@H](O)C1=CC=CC=C1 | C23H26N2O
